US05136049
2.1 2,5-(Bis-(2-thienylmethylidene)-2,5-dihydrothiophene 1-oxide (5) (C14H10OS3, MW=290)
About 30 mmol (3.06 g) of 2,5-dihydrothiopnene-1-oxide (MW=102) (4) and 70 mmol=(7.84 g) (6.5ml) of thiophene-2-aldehyde (MW--112, d=1.2 g/cm3) were added to a solution containing 0.9 g of NaOH in 50 ml of H2O and 12.5 ml of tetrahydrofuran. The mixture was stirred for 2 days. Purification was performed by separation by column chromatography; the reaction mixture was applied to a column of silica gel/diethyl ether. The aldehyde was eluted with ether; the product was eluted with ethyl acetate. When the solvent was stripped off in vacuo, the product precipitated. The precipitate was filtered off with suction and dried.

reactant | thiophene-2-aldehyde | 6.5ml, 7.84 g | S1C(=CC=C1)C=O | C5H4OS
reactant | NaOH | 0.9 g | [OH-].[Na+]
solvent | H2O | 50 ml | O | H2O
solvent | tetrahydrofuran | 12.5 ml | O1CCCC1 | C4H8O
product | Bis-(2-thienylmethylidene)-2,5-dihydrothiophene 1-oxide | S1C(=CC=C1)C=C1C=CC(S1=O)=CC=1SC=CC1 | C14H10OS3
